US07157604B2
A solution of tert-butyl 2-fluorophenylcarbamate (99.5 g, 471 mmol) in anhydrous tetrahydrofuran (900 mL) was placed under a nitrogen atmosphere, cooled in a dry ice-acetone bath, and stirred while t-butyllithium (666 mL of a 1.7M solution in pentane, 1132 mmol) was added slowly. The resulting mixture was slowly warmed up to −15° C. in 2 hours, then cooled back to −78° C. and treated with iodomethane (32.3 mL, 518 mmol). After warming up to −15° C. in 30 minutes, the mixture was removed from the cooling bath and treated with aqueous saturated NH4Cl (20 mL). The resulting slurry was diluted with CH2Cl2 (2000 mL), dried over MgSO4, filtered through a pad of silica, and concentrated under vacuum to afford tert-butyl 2-fluoro-6-methylphenylcarbamate(105 g, 99.5%) as a yellow solid.

reactant | tert-butyl 2-fluorophenylcarbamate | 471 mmol, 99.5 g | FC1=C(C=CC=C1)NC(OC(C)(C)C)=O | C11H14FNO2
reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | iodomethane | 518 mmol, 32.3 mL | IC | CH3I
solvent | tetrahydrofuran | 900 mL | O1CCCC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | tert-butyl 2-fluoro-6-methylphenylcarbamate | 105 g, 99.5% | FC1=C(C(=CC=C1)C)NC(OC(C)(C)C)=O | C12H16FNO2
